Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Four Vessel Coronary Artery Bypass Grafting utilizing 
the left internal mammary artery to left anterior descending, 
with vein grafts to the diagonal, obtuse marginal and PDA.
 
History of Present Illness:
Mr. ___ is a ___ year old male with recent complaints of 
worsening chest pain. He describes the pain as anterior chest 
pain radiating to his left shoulder and arm at rest.  EKG 
revealed inferolateral T wave inversion on ETT. Subsequent 
cardiac catheterization revealed severe three vessel coronary 
artery disease. Given the above results, he was transferred to 
the ___ for cardiac surgical intervention. 
 
Past Medical History:
Hypertension
Dyslipidemia
Type II Diabetes Mellitus
Low Back Pain
History of Retinal Detachment
Tonsillectomy
 
Social History:
___
Family History:
Father died of diabetic complications, no premature coronary 
disease.
 
Physical Exam:
Admission
VS - 98.2, 65, 122/74, 18, 100% RA
Gen: WDWN male in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. 
Neck: Supple, No LAD, no JVP appreciated 
CV: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4. 

Chest: clear bilaterally
Abd: Soft, NT, ND. No abdominial bruits appreciated.  
Ext: Warm. No edema or cyanosis.  
Skin: unremarkable
Pulses: 1+ bilaterally, no carotid or femoral bruits noted

Discharge
VS T 98.5  HR 102ST   BP 111/66  RR 18  O2sat 99%RA
Gen NAD
Neuro Alert, nonfocal exam
Pulm CTA-bilat
Cor RRR, no murmur. Sternum stable-incision CDI. 
Abdm soft, NT/+BS
Ext warm, trace edema. Palpable pulses bilat

 

 
Pertinent Results:
___ 03:32PM BLOOD WBC-7.3 RBC-3.94* Hgb-11.8* Hct-34.5* 
MCV-87 MCH-30.0 MCHC-34.3 RDW-12.8 Plt ___
___ 03:32PM BLOOD ___ PTT-23.7 ___
___ 03:32PM BLOOD Glucose-219* UreaN-14 Creat-1.0 Na-139 
K-4.6 Cl-101 HCO3-29 AnGap-14
___ 03:32PM BLOOD ALT-16 AST-18 LD(LDH)-139 AlkPhos-59 
Amylase-64 TotBili-0.3
___ 03:32PM BLOOD CK-MB-2 cTropnT-<0.01
___ 03:32PM BLOOD Albumin-4.2 Calcium-9.2 Phos-3.7 Mg-2.0
___ 03:32PM BLOOD %HbA1c-9.0*

___ 05:46AM BLOOD WBC-7.7 RBC-3.13* Hgb-9.6* Hct-27.2* 
MCV-87 MCH-30.7 MCHC-35.4* RDW-13.4 Plt ___
___ 05:46AM BLOOD Plt ___
___ 05:46AM BLOOD UreaN-8 Creat-0.7 Na-138 K-4.0

___ Transthoracic ECHO:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF 60-70%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. There are focal calcifications in 
the aortic arch. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion.  
___ Intraop TEE:
PRE BYPASS The left atrium is mildly dilated. No spontaneous 
echo contrast or thrombus is seen in the body of the left 
atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Right ventricular chamber size and free wall motion are 
normal. There are simple atheroma in the descending thoracic 
aorta. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Physiologic mitral regurgitation is seen (within 
normal limits). There is no pericardial effusion. Dr. ___ 
was notified in person of the results in the operating room at 
the time of the study. POST BYPASS Normal biventricular systolic 
function. Thoracic aorta intact. No changes from pre-bypass 
study. 

___ ___ M  ___  ___ 
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 
12:25 ___ 
 UNDERLYING MEDICAL CONDITION: 
 ___ year old man s/p chest tube removal  
Final Report 
CLINICAL HISTORY: Status post removal of left chest tube. 
CHEST: 
Mediastinal chest tubes, endotracheal tube and nasogastric tube 
have all been removed. Some atelectasis is present at the left 
base. No pneumothorax is identified. There are low lung volumes. 

Air-filled loops of large and small bowel are seen. There is no 
free air 
under either hemidiaphragm. 
IMPRESSION: Tubes removed. No pneumothorax. 
___. ___ 
___: MON ___ 2:52 ___ 
 

 
Brief Hospital Course:
Mr. ___ was admitted to the cardiac surgical service and 
underwent routine preoperative evaluation. Workup was rather 
unremarkable and he was cleared for surgery. Given his inpatient 
stay was greater than 24 hours prior to surgery, Vancomycin was 
used for perioperative coverage.

On ___, Dr. ___ coronary artery bypass 
grafting surgery. For surgical details, please see seperate 
dictated operative note. Following the operation, he was brought 
to the CVICU in stable condition for invasive monitoring. Within 
24 hours, he awoke neurologically intact and was extubated 
without incident. Given postoperative anemia, he was transfused 
with packed red blood cells to maintain hematocrit near 30%. He 
otherwise maintained stable hemodynamics and transferred to the 
SDU on postoperative day one. On postoperative day two, he 
experienced atrial fibrillation which was initially treated with 
beta blockade and Amiodarone.  He converted back to a normal 
sinus rhythm within 24 hours. The remainder of his hospital stay 
was uneventful, his activity level was gradually advanced and on 
POD4 he was discharged home. He has follow up in 1 week at ___ 
___.
 
Medications on Admission:
Lisinopril 10 qd, Toprol 100 qd, Metformin 1000 bid, Simvastatin 
40 qd, Aspirin 162 qd
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed.  
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
5. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
6. Metoprolol Tartrate 25 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
7. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO once a day 
for 1 months.
Disp:*30 Tablet(s)* Refills:*0*
8. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
coronary artery disease s/p CABGx4
PMH DM, ^chol, HTN, Retinal detatch, LBP, tonsillectomy

 
Discharge Condition:
good

 
Discharge Instructions:
Please shower daily including washing incisions, no baths or 
swimming 
Monitor wounds for infection - redness, drainage, or increased 
pain 
Report any fever greater than 101 
Report any weight gain of greater than 2 pounds in 24 hours or 5 
pounds in a week 
No creams, lotions, powders, or ointments to incisions 
No driving for approximately one month 
No lifting more than 10 pounds for 10 weeks 
Please call with any questions or concerns ___

 
Followup Instructions:
___